US07345068B2
Trifluoroacetic acid (2 ml) was added to O-(3-bromo-propyl)-N-t-butoxycarbonyl-3,5-diiodo-L-tyrosine methyl ester (131mg, 0.196 mmol) and the mixture was stirred at room temperature for 8 hrs. The solvent of the reaction mixture was distilled off under reduced pressure. The residue was dissolved in tetrahydrofuran (2 ml)-water (2 ml) and lithium hydroxide monohydrate (25 mg, 0.596 mmol) was added thereto with stirring under ice cooling. The mixture was stirred at the same temperature for 4.5 hrs. To the reaction mixture were added 1N hydrochloric acid (0.2 ml) and water (5 ml), and the mixture was stirred at room temperature for 30 min. The precipitates were collected by filtration, washed with water and dried under reduced pressure to give O-(3-bromopropyl)-3,5-diiodo-L-tyrosine(79 mg, 71%) as colorless crystals.

reactant | Trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | O-(3-bromo-propyl)-N-t-butoxycarbonyl-3,5-diiodo-L-tyrosine methyl ester | 0.196 mmol, 131mg | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC(=C(C(=C1)I)OCCCBr)I)=O | C18H24BrI2NO5
reactant | lithium hydroxide monohydrate | 0.596 mmol, 25 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | 1N, 0.2 ml | Cl | ClH
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | water | 2 ml | O | H2O
solvent | water | 5 ml | O | H2O
product | O-(3-bromopropyl)-3,5-diiodo-L-tyrosine | 79 mg, 71% | BrCCCOC1=C(C=C(C[C@H](N)C(=O)O)C=C1I)I | C12H14BrI2NO3
